US09226922B2
To a 50 mL round bottom flask charged with crude benzyl(4-(((tert-butyldimethylsilyl)oxy)methyl)-3-methoxy-1-trityl-1H-pyrazolo[4,3-c]pyridin-6-yl)carbamate (199 mg, 0.291 mmol) in ethyl acetate (10 ml) and methanol (5 ml) was added palladium on carbon (61.8 mg, 0.058 mmol). The flask was evacuated and back-filled with hydrogen gas using an attached balloon. This procedure was attempted a further two times. The reaction mixture was stirred under a hydrogen atmosphere at room temperature for 16 h. The palladium was filtered off by passing the reaction mixture through celite and washing through with methanol (20 mL). The volatiles were removed in vacuo to afford crude 4-(((tert-butyldimethylsilyl)oxy)methyl)-3-methoxy-1-trityl-1H-pyrazolo[4,3-c]pyridin-6-amine (132 mg, 0.240 mmol, 82% yield) as a yellow oil. The product was carried forward without purification. MS: [M+H]+ m/z 551.

reactant | benzyl(4-(((tert-butyldimethylsilyl)oxy)methyl)-3-methoxy-1-trityl-1H-pyrazolo[4,3-c]pyridin-6-yl)carbamate | 0.291 mmol, 199 mg | C(C1=CC=CC=C1)OC(NC1=CC2=C(C(=N1)CO[Si](C)(C)C(C)(C)C)C(=NN2C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)OC)=O | C41H44N4O4Si
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
solvent | methanol | 5 ml | CO | CH4O
catalyst | palladium on carbon | 0.058 mmol, 61.8 mg | [Pd] | Pd
product | 4-(((tert-butyldimethylsilyl)oxy)methyl)-3-methoxy-1-trityl-1H-pyrazolo[4,3-c]pyridin-6-amine | 0.240 mmol, 132 mg, 82% yield | [Si](C)(C)(C(C)(C)C)OCC1=NC(=CC2=C1C(=NN2C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)OC)N | C33H38N4O2Si
